US07071201B2
(47-1) 6-Bromo-2-oxyindole
Under ice cooling, diethyl malonate (500 g) was added dropwise into a suspension of sodium hydride (125 g) in dimethyl sulfoxide (800 ml). After the solution became homogeneous, the resultant mixture was heated to 100° C. and a solution of 2,5-dibromonitrobenzene (500 g) in dimethyl sulfoxide (400 ml) was added dropwise thereinto followed by stirring the resultant mixture at 100° C. for 5 hr. Then the reaction solution was diluted with ice water (2 l), mixed with ethyl acetate (8 l), and the layers were separated. The organic layer was washed successively with water (2 l) four times and brine and dried over anhydrous magnesium sulfate. After evaporating the solvent under reduced pressure, the residue was diluted with ethanol (2.5 l) followed by the addition of tin (380 g). Under ice cooling, conc. hydrochloric acid (1.5 l) was added dropwise into the reaction mixture. After the completion of the addition, the resultant mixture was heated under reflux for 3 hr and diluted with ice water (8 l). The resulting crystalline precipitates were collected by filtration, washed with water and hexane, and air dried at 50° C. for 24 hr to give the title compound (321 g) (yield: 84%).

reactant | diethyl malonate | 500 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | sodium hydride | 125 g | [H-].[Na+]
reactant | 2,5-dibromonitrobenzene | 500 g | BrC1=C(C=C(C=C1)Br)[N+](=O)[O-] | C6H3Br2NO2
reactant | ethyl acetate | 8 l | C(C)(=O)OCC | C4H8O2
solvent | dimethyl sulfoxide | 800 ml | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 400 ml | CS(=O)C | C2H6OS
product | 6-Bromo-2-oxyindole | 321 g, yield: 84% | C1C2=C(C=C(C=C2)Br)NC1=O | C8H6BrNO
